US07635684B2
3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[2-(benzyloxycarbonylamino)ethyl]-2-methylphenyl}-methyl)-5-isopropyl-1H-pyrazole (20 mg) was dissolved in methanol (1 mL). To the solution was added sodium methoxide (28% methanol solution, 0.005 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give 4-({4-[2-(benzyloxycarbonylamino)ethyl]-2-methylphenyl}methyl)-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole. This material was dissolved in methanol (1 mL). To the solution was added 10% palladium-carbon powder (5 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 6 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give the title compound (11 mg).

reactant | 3-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[2-(benzyloxycarbonylamino)ethyl]-2-methylphenyl}-methyl)-5-isopropyl-1H-pyrazole | 20 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)CCNC(=O)OCC1=CC=CC=C1)C)C(C)C | C38H47N3O12
reactant | sodium methoxide | 0.005 mL | C[O-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 4-({4-[2-(benzyloxycarbonylamino)ethyl]-2-methylphenyl}methyl)-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | C(C1=CC=CC=C1)OC(=O)NCCC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C | C30H39N3O8
